Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Penicillins
 
Attending: ___.
 
Chief Complaint:
altered mental status, fever
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
Patient is a ___ with a PMHx of Down's syndrome, Alzheimer's 
Disease, recent first seizure, who presents with fever and AMS.  
Patient lives in a group home and was noted to have intermittent 
mental status changes and fever. She was noticed to be at 
baseline (focused and aware) at 12:30pm on ___ while on the 
phone. At 2pm, she was found by family doubled over, difficult 
to arouse, and hard to sit up. Unclear whether she lost 
consciousness or sleeping. Rhythmic shaking, bowel and bladder 
incontinence, tongue biting, head version, or eye deviation were 
not noticed. Additionally, she had been  unsteady for the last 
___ years, but family thought it had worsened over the last two 
days such that she was barely able to stand. She has been 
complaining of intermittent headaches for the past few days to 
week or two. The family has also noticed intermittent changes 
for the past few weeks. She would miss targets when trying to 
eat, not able to focus or find people in her field of vision. 
Family reports that yesterday, patient had to be picked up and 
carried to car, which has never happened before. It was "as if 
she had forgotten how to walk" and appeared weak and imbalanced. 
She was turning her foot, almost intentionally, when trying to 
walk. They feel that her gait has been worsening over the last 
few days to weeks. She had a severe cough when diagnosed with 
pneumonia, now improving. Family thinks that she was having 
difficulty swallowing. No diarrhea, abdominal pain, rash. No 
urinary symptoms. Has had recent UA/UCx that were negative.  
They state that her BP tends to run low, SBP in ___.  
She was sent initially to ___, where she was 
found to be febrile to ___. Her workup there included ___, 
CXR, UA and LP that were all unremarkable. She was empirically 
given vanc/zosyn and 2L IVFs. She was transferred here with 
concern for subclinical seizure and need for EEG.  
Of note, she was diagnosed with pneumonia on ___, and she 
was treated with 7 days of antibiotics (family thinks 
Levofloxacin). Then, on ___, she became fatigued while working 
with ___, and she was admitted to ___ until the 
___ for pneumonia; during that time, she was hypoxic and "tired 
all the time." On ___, she saw her PCP in ___, who sent 
her to the ___ for hypoxia and hypotension; she was admitted 
again for pneumonia possibly due to aspiration until ___. On 
___ during that admission, she was noticed to have a GTC 
lasting 30 seconds followed by confusion x1 days. Her work-up 
included an MRI brain without contrast (MRI reportedly normal 
within limitations of motion artifact). Routine EEG showed 
intermittent generalized discharges. She was seen by neuro and 
started on keppra 250mg BID and was discharged to ___ 
rehab; while there, her Haldol dose was accidentally quadrupled 
from ___. She returned to her group on ___. Since then 
she has had poor PO intake and has been less alert. She has had 
poor balance ___ years and falls over the last 2 months with 
multiple normal CTs.  
 In the ___, initial vitals:  
 97.8 70 80/53 18 100% RA  
 She was seen by neurology and exam was notable for patient AO 
to person only (per report, baseline), able to name high but not 
low frequency words, able to name two days of the week forward 
and non backward and apparent sensorimotor asymmetry (did not 
cooperate with formal testing).  
 - Labs notable for: normal CBC, normal Chem-7, normal LFTs and 
neg serum tox. Lactate 0.9.  
 - Patient given: 4.5g zosyn  
 - Vitals prior to transfer:  
 80 95/54 19 97% Nasal Cannula  
 On interview, patient denies pain and states that nothing is 
bothering her. Further ROS limited due to inattention and mental 
status.  
 
Past Medical History:
Down syndrome  
 Alzheimer's disease  
 seizure  
 h/o aspiration pna  
 Celiac disease  
 endocarditis - ___ in setting of PNA  
 mood disorder  
 B12 deficiency  
 
Social History:
___
Family History:
 Father--colon CA, skin CA, prostate CA, pulm fibrosis;  
Mother--breast and skin cancer, MS. 3 others with Trisomy 21. No 
 FHx seizures.  
 
 
Physical Exam:
ADMISSION PHYSICAL EXAM
======================
Vitals: 98.5, 108/62, 79, 16, 96/2L  
 General: Alert, pleasant, oriented to self, no acute distress  
 HEENT: Sclera anicteric, dry mucus membranes, oropharynx clear, 
neck supple, JVP not elevated, no LAD  
 Lungs: Poor inspiratory effort but clear to auscultation 
bilaterally, no wheezes, rales, rhonchi  
 CV: Regular rate and rhythm, normal S1 + S2, no murmurs, rubs, 
gallops  
 Abdomen: soft, non-tender, non-distended, bowel sounds present, 
no rebound tenderness or guarding, no organomegaly  
 Ext: Warm, well perfused, no cyanosis or edema  
 Skin: Without rashes or lesions  
 Neuro: A&Ox to self. Able to identify self, relatives and 
objects/colors "cup, orange". PEERL, EOMI. Intermittent shaking 
of LEs.  

DISCHARGE PHYSICAL EXAM
=======================
Vitals: T98.2/97.8, BP 88-96/55-61, HR 74-82, RR 20, SpO2 94-98%
General: sitting up awake in bed, makes appropriate eye contact
HEENT: PEERL, EOMI, sclera anicteric, mucous membranes are dry, 
oropharynx clear
Neck: supple
Lungs: limited by anterior examination, but clear to 
auscultation bilaterally, no wheezes, rales, ronchi  
CV: regular rate and rhythm, normal S1 + S2, no murmurs, rubs, 
gallops  
Abdomen: soft, non-tender, non-distended, no rebound tenderness 
or guarding, no organomegaly  
GU: no foley  
Ext: warm, well perfused, 2+ pulses, no clubbing, cyanosis or 
edema  
Neuro: oriented to self, motor function grossly normal, 
intermittent tremulousness of right lower extremity with high 
frequency shaking, intermittent tightening of the perioral 
musculature 
 
Pertinent Results:
ADMISSION LABS
===============
___ 10:20PM BLOOD WBC-5.4 RBC-3.35* Hgb-11.2 Hct-35.9 
MCV-107* MCH-33.4* MCHC-31.2* RDW-16.2* RDWSD-63.4* Plt ___
___ 10:20PM BLOOD Neuts-56.6 ___ Monos-13.3* 
Eos-0.0* Baso-1.3* Im ___ AbsNeut-3.03 AbsLymp-1.52 
AbsMono-0.71 AbsEos-0.00* AbsBaso-0.07
___ 10:20PM BLOOD ___ PTT-27.0 ___
___ 10:20PM BLOOD Glucose-98 UreaN-20 Creat-1.0 Na-143 
K-4.1 Cl-108 HCO3-24 AnGap-15
___ 05:15AM BLOOD Calcium-9.0 Phos-4.6* Mg-2.6
___ 10:20PM BLOOD ALT-16 AST-24 AlkPhos-48 TotBili-0.4
___ 10:20PM BLOOD Lipase-26
___ 10:20PM BLOOD cTropnT-<0.01
___ 10:20PM BLOOD ASA-NEG Ethanol-NEG Acetmnp-NEG 
Bnzodzp-NEG Barbitr-NEG Tricycl-NEG
___ 10:30PM BLOOD Lactate-0.9

INTERVAL LABS
============
___ 11:51PM URINE Color-Yellow Appear-Hazy Sp ___
___ 11:51PM URINE Blood-NEG Nitrite-NEG Protein-NEG 
Glucose-NEG Ketone-TR Bilirub-NEG Urobiln-NEG pH-6.5 Leuks-SM 
___ 11:51PM URINE RBC-11* WBC-2 Bacteri-FEW Yeast-NONE 
Epi-3

Levetiracetam level - pending

DISCHARGE LABS
==============
___ 05:15AM BLOOD WBC-5.6 RBC-3.59* Hgb-12.3 Hct-37.9 
MCV-106* MCH-34.3* MCHC-32.5 RDW-15.5 RDWSD-59.6* Plt ___
___ 05:15AM BLOOD Glucose-90 UreaN-22* Creat-0.9 Na-144 
K-4.7 Cl-103 HCO3-30 AnGap-16
___ 05:15AM BLOOD Calcium-9.0 Phos-4.6* Mg-2.6

MICROBIOLOGY
=============
___ blood culture, final no growth

IMAGING
========
___ EEG
IMPRESSION: This is an abnormal waking EEG due to the presence 
of intermittent
bilateral synchronous temporal delta frequency slowing, which 
may be indicative of subcortical dysfunction in these regions. 
Generalized slowing indicates a moderate encephalopathy, which 
is nonspecific with regards to etiology. No seizures or 
epileptiform discharges are recorded.
 
Brief Hospital Course:
___ with PMHx of Down syndrome, Alzheimer's disease, recent 
first seizure who presents with AMS, fever, and subacute decline 
in mental/functional status.  

#Encephalopathy: Differential included toxic metabolic secondary 
to infection vs (or additionally) seizures or worsening of 
underlying Alzheimer's disease. Per report, her prior seizure 
was GTC, but there was no witnessed history of rhythmic shaking, 
incontinence, tongue biting, drooling, eye deviation in this 
instance - making seizure less likely. MRI images from seizure 
workup at ___ without obvious etiology although this was limited 
by motion. Routine extended EEG without epileptiform 
discharges/spikes, just showing generalized slowing. Also could 
be secondary to recurrent aspiration leading to hypoxia/AMS, but 
SLP found no obvious aspiration on bedside exam. Also reportedly 
received incorrectly high doses of Haldol, raising drug effect 
as possibility though less likely given that incorrect doses 
were about a week ago. Her recent subacute decline raises 
possibility of possible worsening of known underlying 
conditions, especially Alzheimer's Disease. Repeat UA with 
multiple epithelial cells, but no obvious UTI. 
-Continue Keppra at home dose of 250mg BID  
-f/u Keppra level pending at discharge
-Avoid medications that lower seizure threshold if possible 
(e.g., fluoroquinolones, metronidazole)   
- outpatient neurology ___

#Fever: Patient with fever on arrival to ___, but none 
afterward. Only SIRS criteria was fever and workup at ___ 
unremarkable including negative LP. Does have history of 
multiple pneumonias, and was slightly hypoxic on exam (see 
below), but this could have been secondary to splinting to 
atelectasis. CXR was initially concerning for consolidation, 
though per comparison to prior at ___, consolidation is 
improving from recent PNA. Suspected possible aspiration as 
component, especially if occurring in setting of unwitnessed 
seizure. Blood cultures and urine cultures unremarkable. 
Antibiotics were held given no clear source of infection. 
Patient remained afebrile for duration of hospital stay. SLP 
consult found no obvious aspiration on exam; continued ground 
solids and thin liquids with aspiration precautions.
 
#History of seizures:  as above, less likely to have contributed 
to current presentation. Routine extended EEG showed generalized 
slowing. Neurology consult recommended continuing keppra at 
current level, following up pending keppra level and ___ 
with outpatient neurologist.

#Mood disorder: continued Haldol, fluoxetine.

#Hypoxia: Patient was requiring ___ L on arrival, however was 
quickly weaned to room air. Lungs clear on exam, CXR reassuring 
for no new infection, or edema as above.  She was on room air 
prior to discharge.

TRANSITIONAL ISSUES:
- staff attempted to set up patient with Epileptologist for 
___ upon discharge; she was seen by Dr. ___ 
inpatient.
- ___ keppra level pending at discharge
- loratidine held at discharge due to possibility of causing 
altered mental status
- recommend completing MOLST form with patient
- would recommend monitoring closely for tardive dyskinesia 
given reports of stereotypical facial movements by family
# CODE STATUS: DNR/DNI - confirmed with HCP/guardian
 # CONTACT:  
 ___: ___ - house director  
 ___: ___ (brother) - legal guardian  
 ___: ___ (sister) - legal guardian  
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. LevETIRAcetam 250 mg PO BID 
2. Loratadine 10 mg PO ___ 
3. Haloperidol 0.5 mg PO QHS 
4. Vitamin D Dose is Unknown  PO ___ 
5. Cyanocobalamin 1000 mcg IM/SC MONTHLY 
6. FLUoxetine 20 mg PO ___ 
7. Dextromethorphan Polistirex ___ mg PO Q12H:PRN cough 
8. melatonin 3 mg oral QHS 

 
Discharge Medications:
1.  Cyanocobalamin 1000 mcg IM/SC MONTHLY  
2.  Dextromethorphan Polistirex ___ mg PO Q12H:PRN cough  
3.  FLUoxetine 20 mg PO ___  
4.  Haloperidol 0.5 mg PO QHS  
5.  LevETIRAcetam 250 mg PO BID  
6.  melatonin 3 mg oral QHS  
7.  Vitamin D 0 UNIT PO ___  

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
PRIMARY DIAGNOSIS: Aspiration pneumonitis, seizure disorder
SECONDARY DIAGNOSIS: Alzheimer's Dementia
 
Discharge Condition:
Mental Status: Confused - always.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane).

 
Discharge Instructions:
Dear Ms. ___,

It was a pleasure taking care of you during your hospitalization 
at ___. You were admitted to the hospital after your family 
was concerned that you were not acting like yourself. You were 
evaluated for infection and seizures. We found no evidence of 
infection, and no evidence of seizures. You were also seen by 
the Neurologists who did not think that you had had a seizure. 
They recommended continuing your anti-seizure medication 
(keppra) for now, and following up with a neurologist to discuss 
possibly changing your anti-seizure medication. You did have a 
fever, but we suspect this was related to choking on food 
(aspiration pneumonitis) rather than a true infection. You were 
seen by our Swallowing therapists and they recommended a diet 
with ground food and thin liquids.

Please ___ with your doctors as below.

We wish you the best!
- your ___ team
 
Followup Instructions:
___